US08445510B2
(2R)-3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-3,5-dimethyl-1H-pyrazol-1-yl]propane-1,2-diol
A mixture of tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (10.0 mg, 0.0192 mmol), 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (12.9 mg, 0.0385 mmol), Pd(PPh3)4 (1.1 mg, 0.00096 mmol), K2CO3 (7.98 mg, 0.00577 mmol) and 4:1 dioxane:H2O (0.7 mL, 8 mmol) was heated in a microwave reactor at 100° C. for 45 min. 12 M of HCl in H2O (0.04 mL, 0.5 mmol) was added, and the solution was heated to 40° C. for 20 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.84 (d, J=7.3 Hz, 3H), 2.04 (s, 3H), 2.17 (s, 3H), 3.50-3.61 (m, 2H), 3.96-4.10 (m, 2H), 4.13-4.19 (m, 1H), 5.07-5.15 (m, 1H), 6.43 (br. s., 1H), 7.12 (dd, J=9.2, 4.4 Hz, 1H), 7.19 (t, J=8.7 Hz, 1H), 7.28 (d, J=1.8 Hz, 1H), 7.41 (d, J=1.3 Hz, 1H), 7.96-8.04 (m, 1H). MS (ES+): m/z=509.15/511.15 (100/50) [MH+]. HPLC: tR=1.33 min (polar—3 min, UPLC-ACQUITY).

reactant | tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]-ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.0192 mmol, 10.0 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(F)F)F)Cl)C(=O)OC(C)(C)C | C21H19BrClF3N2O3
reactant | 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.0385 mmol, 12.9 mg | CC1(OC[C@H](O1)CN1N=C(C(=C1C)B1OC(C(O1)(C)C)(C)C)C)C | C17H29BN2O4
reactant | K2CO3 | 0.00577 mmol, 7.98 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 8 mmol, 0.7 mL | O | H2O
reactant | HCl | 12 M | Cl | ClH
reactant | H2O | 0.5 mmol, 0.04 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.00096 mmol, 1.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R)-3-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-3,5-dimethyl-1H-pyrazol-1-yl]propane-1,2-diol | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2C)C[C@H](CO)O)C | C24H24ClF3N4O3
